US05247055
1,10-Di(2-methoxy-4-formylphenoxy)decane:
A slurry of 13.42 g of vanillin, 11.99 g of 1,10-dibromodecane, 6.16 g of anhydrous potassium carbonate and 300 ml of acetone was refluxed with stirring for 48 h, cooled and diluted with 400 ml of water. After the salts had dissolved, the mixture was chilled overnight at 5° C. The solid product was filtered, washed twice with water and recrystallized (still wet) from 250 ml of ethanol. Cooling to 25° C. gave 4.75 g of compound mp 93°-102° C., wetting at 65° C. (Further cooling of the mother liquors to 5° C. furnished 3.5 g of very impure materials, mp 55°-65° C.). Another recrystallization from 130 ml of ethanol raised the mp to 103°-105° C., slight wetting at 99° C.; 3.16 g.

reactant | vanillin | 13.42 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 1,10-dibromodecane | 11.99 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | potassium carbonate | 6.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | 400 ml | O | H2O
product | 1,10-Di(2-methoxy-4-formylphenoxy)decane | 4.75 g | COC1=C(OCCCCCCCCCCOC2=C(C=C(C=C2)C=O)OC)C=CC(=C1)C=O | C26H34O6
